US04159330
Dimethyl- 4-amino-isophthalate (5 g) in 50 ml of dioxane and 10 ml of anhydrous pyridine is treated with 7.5 g of 2-ethoxy-3-methoxybenzoyl chloride at room temperature, overnight. After dilution with water, the precipitate is collected, dissolved in ethyl acetate, and washed with 5% NaHCO3 and then with water. After evaporation to dryness under vacuum, the material is crystallized from isopropyl ether, yielding dimethyl- 4-(2'-ethoxy-3'-methoxy-benzoylamino)-isophthalate (9 g; m.p. 113°-115° C.), which is dissolved in 80 ml of dioxane and treated with 70 ml of 1N NaOH at room temperature for 4 hours. After acidification with diluted HCl, the precipitate is collected under vacuum and washed with water until neutral. The yield is 7.4 g of 4-(2'-ethoxy-3'-methoxy-benzoylamino)-isophthalic acid (m.p.=244°-246° C.), which are treated with 10 ml of acetic anhydride at the reflux temperature for 10'.

reactant | Dimethyl- 4-amino-isophthalate | 5 g | COC(C1=CC(C(=O)OC)=C(C=C1)N)=O | C10H11NO4
reactant | 2-ethoxy-3-methoxybenzoyl chloride | 7.5 g | C(C)OC1=C(C(=O)Cl)C=CC=C1OC | C10H11ClO3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | dimethyl- 4-(2'-ethoxy-3'-methoxy-benzoylamino)-isophthalate | 9 g | COC(C1=CC(C(=O)OC)=C(C=C1)NC(C1=C(C(=CC=C1)OC)OCC)=O)=O | C20H21NO7
